US04225618
22.9 g (0.1 mol) of 3,5-bis-trifluoromethyl-aniline were dissolved in 150 ml of dry toluene. 11.9 g (0.1 mol) of chloroacetyl isocyanate in 50 ml of dry toluene were added. The mixture was stirred at 50° C. for 1 hour and then cooled to room temperature. The product which had precipitated was filtered off and rinsed with toluene/ligroin 1:2 and then dried. 26 g (74.5% of theory) of N-(3,5-bis-trifluoromethylphenyl)-N'-(chloroacetyl)-urea with a melting point of 170° C. were thus obtained.

reactant | 3,5-bis-trifluoromethyl-aniline | 0.1 mol, 22.9 g | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
reactant | chloroacetyl isocyanate | 0.1 mol, 11.9 g | ClCC(=O)N=C=O | C3H2ClNO2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3,5-bis-trifluoromethylphenyl)-N'-(chloroacetyl)-urea | 26 g, 74.5% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)NC(CCl)=O)(F)F | C11H7ClF6N2O2
